US06063806
1-Acetyl-3-(2-hydroxyethyl)-4,6-dimethylindoline (7.0 g) and CBr4 (9.9 g) were dissolved in CH3CN (70 ml), and Ph3P (9.4 g) was added, which was followed by stirring at room temperature for 30 min. CH3CN was evaporated under reduced pressure. AcOEt (100 ml) was added, and the mixture was washed with water and dried over anhydrous sodium sulfate. AcOEt was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: benzene/AcOEt=50/1-10/1) to give 5.4 g of 1-acetyl-3-(2-bromoethyl)-4,6-dimethylindoline.

reactant | 1-Acetyl-3-(2-hydroxyethyl)-4,6-dimethylindoline | 7.0 g | C(C)(=O)N1CC(C2=C(C=C(C=C12)C)C)CCO | C14H19NO2
reactant | CBr4 | 9.9 g | C(Br)(Br)(Br)Br | CBr4
reactant | Ph3P | 9.4 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | CH3CN | 70 ml | CC#N | C2H3N
product | 1-acetyl-3-(2-bromoethyl)-4,6-dimethylindoline | 5.4 g | C(C)(=O)N1CC(C2=C(C=C(C=C12)C)C)CCBr | C14H18BrNO
